US06407235B1
3-[(tert-Butoxycarbonyl-methyl-amino)-methyl]-benzoic Acid (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl Ester
The title compound was prepared from (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenol and 3-[(tert-butoxycarbonyl-methyl-amino)-methyl]-benzoic acid in 70% yield as a colorless gum.

reactant | (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenol | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)O)O | C20H25NO4S
reactant | 3-[(tert-butoxycarbonyl-methyl-amino)-methyl]-benzoic acid | C(C)(C)(C)OC(=O)N(C)CC=1C=C(C(=O)O)C=CC1 | C14H19NO4
product | 3-[(tert-Butoxycarbonyl-methyl-amino)-methyl]-benzoic Acid (3S,4S)-4-[2-(4-benzyl-3-hydroxy-piperidin-1-yl)-ethanesulfonyl]-phenyl Ester | 70% yield | C(C1=CC=CC=C1)[C@@H]1[C@@H](CN(CC1)CCS(=O)(=O)C1=CC=C(C=C1)OC(C1=CC(=CC=C1)CN(C)C(=O)OC(C)(C)C)=O)O | C34H42N2O7S
